US07250442B2
1-(2-Chloro-benzyl)-3,3-bis-(4-hydroxy-phenyl)-1,3-dihydro-indol-2-one
Using a method similar to Example 12, 1-(2-chloro-benzyl)-1H-indole-2,3-dione (300 mg, 1.1 mmol) and 2,6-dimethylphenol (831 mg, 8.83 mmol) in trifluoromethanesulfonic acid (5 mL) gives a crude brown oil. Purify by flash chromatography (CH2Cl2, 10% EtOAc/CH2Cl2, 25% EtOAc/CH2Cl2) and recrystallize the resulting oil from diethyl ether/CH2Cl2/hexanes to give after drying under house vacuum 145 mg (30%) of the title compound as an off-white powder. MS (ES): m/z=442 (M+1), 440 (M−1); 1H NMR(DMSO-d6): δ9.46 (s, 2H), 7.52 (dd, J=1.2 Hz, J=7.8 Hz, 1H), 7.36-7.24 (m, 4H), 7.10 (t, J=7.3 Hz, 1H), 7.01-6.91 (m, 6H), 6.71 (d, J=8.7 Hz, 4H), 5.06 (s, 2H).

reactant | 1-(2-chloro-benzyl)-1H-indole-2,3-dione | 1.1 mmol, 300 mg | ClC1=C(CN2C(C(C3=CC=CC=C23)=O)=O)C=CC=C1 | C15H10ClNO2
reactant | 2,6-dimethylphenol | 8.83 mmol, 831 mg | CC1=C(C(=CC=C1)C)O | C8H10O
solvent | trifluoromethanesulfonic acid | 5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 1-(2-Chloro-benzyl)-3,3-bis-(4-hydroxy-phenyl)-1,3-dihydro-indol-2-one | ClC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC=C(C=C2)O)C2=CC=C(C=C2)O)=O)C=CC=C1 | C27H20ClNO3
